US07301022B2
N-(4-(6-(2-(1-Isopropylpyrrolidin-3-ylamino)-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide.
N-(4-(6-(2-(Pyrrolidin-3-ylamino)-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide, Example 3(c), (30 mg, 0.06 mmol) was reacted with acetone (1 mL, 136 mmol, Aldrich) under the conditions of Example 3(d) to give the title compound as a yellow solid. MS (ESI, pos. ion.) m/z: 558 (M+1). Mp: 140-141° C.

reactant | N-(4-(6-(2-(Pyrrolidin-3-ylamino)-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide | N1CC(CC1)NC1=NC(=CC=C1C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O)C(F)(F)F | C23H20F3N7O2S
reactant | acetone | 136 mmol, 1 mL | CC(=O)C | C3H6O
product | N-(4-(6-(2-(1-Isopropylpyrrolidin-3-ylamino)-6-(trifluoromethyl)pyridin-3-yl)pyrimidin-4-yloxy)benzo[d]thiazol-2-yl)acetamide | C(C)(C)N1CC(CC1)NC1=NC(=CC=C1C1=CC(=NC=N1)OC1=CC=CC2=C1N=C(S2)NC(C)=O)C(F)(F)F | C26H26F3N7O2S
